US07084166B2
Preparation of 1,1-di-indol-3-yl-butane (ST 1385)
282 mg of indole (2.4 mmol) were dissolved in 10 ml of CH3OH and 5 ml of H2O; 72 mg (1 mmol) of butyraldehyde and 240 mg of dysprosium triflate-(CF3SO3)3Dy-(0.393 mmol) were added.

reactant | indole | 2.4 mmol, 282 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | butyraldehyde | 1 mmol, 72 mg | C(CCC)=O | C4H8O
solvent | CH3OH | 10 ml | CO | CH4O
solvent | H2O | 5 ml | O | H2O
product | 1,1-di-indol-3-yl-butane | N1C=C(C2=CC=CC=C12)C(CCC)C1=CNC2=CC=CC=C12 | C20H20N2
